US08487108B2
The (S)-tert-butyl 4-((R)-5-(cyclohexyloxy)-5-oxo-2-((R)-2-oxo-4-phenyloxazolidine-3-carbonyl)pentyl)-2,2-dimethyloxazolidine-3-carboxylate (8.12 g, 13.9 mmol, 1.0 equiv) was dissolved in a 4:1 mixture of THF:MeOH (150 mL) and the solution cooled to 0° C. Solid NaBH4 (1.05 g, 27.8 mmol, 2.0 equiv) was added in ca 200 mg portions over a 20 min period. The solution was stirred at 0° C. for 4 h. During this time two additional 500 mg portions of NaBH4 were added. After this time LC/MS analysis showed consumption of the starting material. The excess hydride reagent was quenched by the addition of 10,% citric acid. The mixture was diluted with ca 100 mL of EtOAc and the organic layer separated. The aqueous layer was extracted with additional EtOAc. The combined organic layers were washed with brine, dried over Na2SO4, filtered and evaporated. The alcohol was purified by flash chromatography on silica, (120 g), eluting with 0-41% EtOAc in hexanes. This afforded 5.2 g (90% yield) of (S)-tert-butyl 4-((R)-5-(cyclohexyloxy)-2-(hydroxymethyl)-5-oxopentyl)-2,2-dimethyloxazolidine-3-carboxylate as a clear syrup. MS ESI +ve m/z 436 (M+Na).

reactant | (S)-tert-butyl 4-((R)-5-(cyclohexyloxy)-5-oxo-2-((R)-2-oxo-4-phenyloxazolidine-3-carbonyl)pentyl)-2,2-dimethyloxazolidine-3-carboxylate | 13.9 mmol, 8.12 g, 1.0 equiv | C1(CCCCC1)OC(CC[C@H](C[C@@H]1N(C(OC1)(C)C)C(=O)OC(C)(C)C)C(=O)N1C(OC[C@H]1C1=CC=CC=C1)=O)=O | C31H44N2O8
reactant | MeOH | 150 mL | CO | CH4O
reactant | NaBH4 | 27.8 mmol, 1.05 g, 2.0 equiv | [BH4-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
product | (S)-tert-butyl 4-((R)-5-(cyclohexyloxy)-2-(hydroxymethyl)-5-oxopentyl)-2,2-dimethyloxazolidine-3-carboxylate | 5.2 g, 90% yield | C1(CCCCC1)OC(CC[C@H](C[C@@H]1N(C(OC1)(C)C)C(=O)OC(C)(C)C)CO)=O | C22H39NO6
